US08258138B2
ii) Benzyl-[4-(4-phenyl-piperazin-1-yl methyl)-phenyl)-amine
Sodium triacetoxyborohydride (282 mg, 1.34 mmol) was added in one portion to a stirred solution of 4-(4-phenyl-piperazin-1-yl methyl)-phenylamine, benzaldehyde (75 μl, 0.73 mmol) and acetic acid (43 μl, 0.73 mmol) in dry dichloromethane (6 ml) and the reaction was stirred for 16 hours at room temperature. Water was added and the organic layer separated then washed with brine and dried over magnesium sulfate. The solution was concentrated in vacuo and the crude residue purified by column chromatography (hexanes/ethyl acetate 1:1) to afford the title compound as a colourless solid (175 mg, 72%). HPLC retention time 7.53 min. Mass spectrum (ES+) m/z 358 (M+H).

reactant | Sodium triacetoxyborohydride | 1.34 mmol, 282 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-(4-phenyl-piperazin-1-yl methyl)-phenylamine | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)N | C17H21N3
reactant | benzaldehyde | 0.73 mmol, 75 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 0.73 mmol, 43 μl | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | Benzyl-[4-(4-phenyl-piperazin-1-yl methyl)-phenyl)-amine | 175 mg, 72% | C(C1=CC=CC=C1)NC1=CC=C(C=C1)CN1CCN(CC1)C1=CC=CC=C1 | C24H27N3
